US07531576B2
N-(Chloroacetyl)-2,4,6-trifluoroaniline (313.0 mg), N-pentyl-N-[[2′-[N-(triphenylmethyl)tetrazol-5-yl]-1,1′-biphenyl-4-yl]methyl]amine (780.0 mg), potassium iodide (230 mg) and triethylamine (2.1 g) were suspended in dimethylformamide (12 mL). The resulting mixture was heated to about 80° C., and then stirred at that temperature. Three hours later, the reaction mixture was cooled, ethyl acetate (100 mL) was added, and the mixture was washed four times with brine (200 mL, each). The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was subjected to chromatography on a silica gel column (hexane/ethyl acetate) to afford N-pentyl-N-[[[(2,4,6-trifluorophenyl)amino]carbonyl]methyl]-N-[[2′-[N-(triphenylmethyl)tetrazol-5-yl]-1,1′-biphenyl-4-yl]methyl]amine (434.8 mg). Yield: 42%.

reactant | N-(Chloroacetyl)-2,4,6-trifluoroaniline | 313.0 mg | ClCC(=O)NC1=C(C=C(C=C1F)F)F | C8H5ClF3NO
reactant | N-pentyl-N-[[2′-[N-(triphenylmethyl)tetrazol-5-yl]-1,1′-biphenyl-4-yl]methyl]amine | 780.0 mg | C(CCCC)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H37N5
reactant | potassium iodide | 230 mg | [I-].[K+]
reactant | triethylamine | 2.1 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-pentyl-N-[[[(2,4,6-trifluorophenyl)amino]carbonyl]methyl]-N-[[2′-[N-(triphenylmethyl)tetrazol-5-yl]-1,1′-biphenyl-4-yl]methyl]amine | 434.8 mg, Yield: 42% | C(CCCC)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(=O)NC1=C(C=C(C=C1F)F)F | C46H41F3N6O
